US07435735B2
Step 3: 4-Benzyloxycarbonyl-1-(4-fluorobenzyl)-3,4-dihydropyrazin-2(1H)-one
To a solution of N2-benzyloxycarbonyl-N1-(2,2-dimethoxyethyl)-N1-(4-fluorobenzyl)glycinamide (61.5 g, 152 mmol) and p-toluenesulfonic acid monohydrate (3 g) in toluene (450 mL) was stirred at 75° C. for 5 days. Each day an additional 3 g of toluenesulfonic acid was added. The resultant reaction mixture was cooled to room temperature and filtered through a pad of Celite. The filtrate was concentrated under vacuum, and the residue dissolved in dichloromethane. The organic solution was washed successively with saturated aqueous sodium bicarbonate, brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residual solid was subjected to column chromatography on silica gel eluting with dichloromethane and then 5% ethyl acetate in dichloromethane. Appropriate fractions were collected and concentrated under vacuum. Residual ethyl acetate and dichloromethane was removed by co-evaporation with toluene for 3 time for subsequent hydrogenation. The residue was triturated with hexane, and filtered to provide the cyclization product as an off-white solid.

reactant | N2-benzyloxycarbonyl-N1-(2,2-dimethoxyethyl)-N1-(4-fluorobenzyl)glycinamide | 152 mmol, 61.5 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)N(CC1=CC=C(C=C1)F)CC(OC)OC | C21H25FN2O5
reactant | p-toluenesulfonic acid monohydrate | 3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluenesulfonic acid | 3 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Benzyloxycarbonyl-1-(4-fluorobenzyl)-3,4-dihydropyrazin-2(1H)-one | C(C1=CC=CC=C1)OC(=O)N1CC(N(C=C1)CC1=CC=C(C=C1)F)=O | C19H17FN2O3
